US04176194
A mixture of 4-chloro 2',4'-dichlorobenzophenone (8 g.), hydroxylamine hydrochloride (2.9 g.), powdered potassium hydroxide (7.7 g.), ethanol (10 ml.) and water (2 ml.) was heated under reflux for 15 minutes. The mixture was poured into water (300 ml.) containing concentrated hydrochloric acid (30 ml.), and the precipitated oil was left to crystallise. The mixture was then filtered, and the solid residue (7.0 g., 83% yield) of 4-chloro-2',4'-dichlorobenzophenone oxime (m.p. 98°-100° C.) was used in the above process without further purification. A sample recrystallised from petrol also had m.p. 98°-100° C.

reactant | 4-chloro 2',4'-dichlorobenzophenone | 8 g | ClC1=CC=C(C(=O)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C13H7Cl3O
reactant | hydroxylamine hydrochloride | 2.9 g | Cl.NO
reactant | potassium hydroxide | 7.7 g | [OH-].[K+]
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-chloro-2',4'-dichlorobenzophenone oxime | 7.0 g, 83% yield | ClC1=CC=C(C(C2=C(C=C(C=C2)Cl)Cl)=NO)C=C1 | C13H8Cl3NO
